US08071597B2
N-[3-(2,5-Dimethoxy-phenylamino)-quinoxalin-2-yl]-3-fluorobenzene sulfonamide (36) (Scheme 1)
N-(3-chloroquinoxalin-2-yl)-3-fluorobenzenesulfonamide (125 mg, 0.4 mmole) and 2,5-dimethoxyaniline (170.4 mg, 1.1 mmole) are taken in 0.5 ml of EtOH and the resulting suspension is stirred at 100° C. in an orbital shaker, overnight. The precipitate obtained is filtered and washed with EtOH then ether to afford the title compound as a dark green solid (163 mg, 97%). HPLC (max plot) 96%, rt. 4.88 min. LC/MS: (ES+): 455.2.

reactant | N-(3-chloroquinoxalin-2-yl)-3-fluorobenzenesulfonamide | 0.4 mmole, 125 mg | ClC=1C(=NC2=CC=CC=C2N1)NS(=O)(=O)C1=CC(=CC=C1)F | C14H9ClFN3O2S
reactant | 2,5-dimethoxyaniline | 1.1 mmole, 170.4 mg | COC1=C(N)C=C(C=C1)OC | C8H11NO2
solvent | EtOH | 0.5 ml | CCO | C2H6O
product | N-[3-(2,5-Dimethoxy-phenylamino)-quinoxalin-2-yl]-3-fluorobenzene sulfonamide | 163 mg, 97% | COC1=C(C=C(C=C1)OC)NC=1C(=NC2=CC=CC=C2N1)NS(=O)(=O)C1=CC(=CC=C1)F | C22H19FN4O4S
